### PR TITLE
More cohomology optimisations

### PR DESCRIPTION
**Pull request by aljungstrom**
This PR contains:

- A direct proof of the wedge connectivity lemma for spheres. This gives a slightly more direct proof of the Freudenthal suspension theorem restricted to spheres. My hope is that this will improve cohomology addition somewhat. I put all of this in a new Properties file under Sn. (The proof of Freudenthal is still Cavallo's, but because of the small alterations I made, I decided to just copy it instead of parametrising the old proof)

- Some cleanups in `Cubical.ZCohomology.Groups.Sn`. Many proofs concerning trivial cohomology have been replaced by direct proofs instead. I also commented out one out of two proofs of the fact that H¹(S¹) ≅ ℤ.

-  A more direct proof of the fact that Hⁿ(A ⋁ B) ≅ Hⁿ(A) × Hⁿ(B) for n>1.

Unfortunately, `Cubical.ZCohomology.Groups.Wedge` is still slow. The problematic case is n = 1 where I think agda is struggling  with inferring the carrier type and/or addition operator of the cohomology groups.

### CODE REVIEW

File: Cubical/HITs/S1/Properties.agda [hunk 1]
```diff
@@ -25,3 +25,10 @@ isGroupoidS¹ s t =
           (λ q → subst (λ t → isSet (base ≡ t)) q isSetΩS¹)
           (isConnectedS¹ t)))
     (isConnectedS¹ s)
+
+characFunSpaceS¹ : ∀ {ℓ} {A : Type ℓ} → Iso (S¹ → A) (Σ[ x ∈ A ] x ≡ x)
```
Comment (mortberg) [inline Cubical/HITs/S1/Properties.agda:29]: This name should contain Iso somewhere. Maybe `IsoFunSpaceS¹`?

File: Cubical/HITs/SetTruncation/Properties.agda [hunk 2]
```diff
@@ -72,6 +72,10 @@ elim3 : {B : (x y z : ∥ A ∥₂) → Type ℓ}
 elim3 Bset g = elim2 (λ _ _ → isSetΠ (λ _ → Bset _ _ _))
                      (λ a b → elim (λ _ → Bset _ _ _) (g a b))
 
+
+map∥₂ : (A → B) → ∥ A ∥₂ → ∥ B ∥₂
```
Comment (mortberg) [inline Cubical/HITs/SetTruncation/Properties.agda:76]: Why is there a `∥₂` in the name?

File: Cubical/HITs/SetTruncation/Properties.agda [hunk 3]
```diff
@@ -169,3 +173,14 @@ Iso.rightInv setTruncOfProdIso =
   prodElim (λ _ → isOfHLevelPath 2 (isSet× setTruncIsSet setTruncIsSet) _ _) λ _ _ → refl
 Iso.leftInv setTruncOfProdIso =
   elim (λ _ → isOfHLevelPath 2 setTruncIsSet _ _) λ {(a , b) → refl}
+
+moveSetTruncΣ : ∀ {ℓ ℓ'} {A : Type ℓ} {B : A → Type ℓ'} → Iso ∥ Σ A B ∥₂ ∥ Σ A (λ x → ∥ B x ∥₂) ∥₂
```
Comment (mortberg) [inline Cubical/HITs/SetTruncation/Properties.agda:177]: This name is not great, it should contain `Iso`. Also, isn't the levels and A already quantified using variable in this file?

File: Cubical/HITs/Sn/Properties.agda [hunk 4]
```diff
@@ -13,29 +12,329 @@ open import Cubical.Foundations.Prelude
...
-open import Cubical.HITs.Pushout
-open import Cubical.HITs.SmashProduct
-open import Cubical.HITs.PropositionalTruncation
+open import Cubical.HITs.Truncation
+open import Cubical.Homotopy.Loopspace
+open import Cubical.Homotopy.Connected
 
-open Iso
+sphereConnected : (n : HLevel) → isConnected (suc n) (S₊ n)
+sphereConnected n = ∣ ptSn n ∣ , (elim (λ _ → isOfHLevelPath (suc n) (isOfHLevelTrunc (suc n)) _ _)
```
Comment (mortberg) [inline Cubical/HITs/Sn/Properties.agda:24]: redundant parentheses around `elim`

File: Cubical/HITs/Sn/Properties.agda [hunk 5]
```diff
@@ -13,29 +12,329 @@ open import Cubical.Foundations.Prelude
...
+                                      (λ a → sym (spoke ∣_∣ (ptSn n)) ∙ spoke ∣_∣ a))
+
+-- Elimination principles for spheres
+sphereElim : ∀ {ℓ} (n : ℕ) {A : (S₊ (suc n)) → Type ℓ} → ((x : S₊ (suc n)) → isOfHLevel (suc n) (A x))
```
Comment (mortberg) [inline Cubical/HITs/Sn/Properties.agda:28]: Why not quantify over the levels at the top of the file?

File: Cubical/HITs/Sn/Properties.agda [hunk 6]
```diff
@@ -13,29 +12,329 @@ open import Cubical.Foundations.Prelude
...
+          → A (ptSn (suc n))
+          → (x : S₊ (suc n)) → A x
+sphereElim zero hlev pt = toPropElim hlev pt
+sphereElim (suc n) hlev pt north = pt
+sphereElim (suc n) {A = A} hlev pt south = subst A (merid (ptSn (suc n))) pt
+sphereElim (suc n) {A = A} hlev pt (merid a i) = helper i
+  where
+  helper : PathP (λ i → A (merid a i)) pt (subst A (merid (ptSn (suc n))) pt)
```
Comment (mortberg) [inline Cubical/HITs/Sn/Properties.agda:36]: Is helper really that helpful here? It seems very clear what the type of this goal should be by the two cases above

File: Cubical/HITs/Sn/Properties.agda [hunk 7]
```diff
@@ -13,29 +12,329 @@ open import Cubical.Foundations.Prelude
...
+wedgeConSn : ∀ {ℓ} (n m : ℕ) {A : (S₊ (suc n)) → (S₊ (suc m)) → Type ℓ}
+          → ((x : S₊ (suc n)) (y : S₊ (suc m)) → isOfHLevel ((suc n) + (suc m)) (A x y))
+          → (f : (x : _) → A (ptSn (suc n)) x)
+          → (g : (x : _) → A x (ptSn (suc m)))
+          → (g (ptSn (suc n)) ≡ f (ptSn (suc m)))
+          → Σ[ F ∈ ((x : S₊ (suc n)) (y : S₊ (suc m)) → A x y) ]
+              ((x : S₊ (suc m)) → F (ptSn (suc n)) x ≡ f x) × ((x : S₊ (suc n)) → F x (ptSn (suc m)) ≡ g x)
+wedgeConSn zero zero {A = A} hlev f g hom = F , (λ _ → refl) , right
+  where
+  helper : SquareP (λ i j → A (loop i) (loop j)) (cong f loop) (cong f loop)
```
Comment (mortberg) [inline Cubical/HITs/Sn/Properties.agda:74]: I would use `_∙∙_∙∙_` instead of these hcomp's

Comment (mortberg) [reply Cubical/HITs/Sn/Properties.agda:74]: This applies to all of the hcomps where you attach 2 lines to another line in this proof

File: Cubical/HITs/Sn/Properties.agda [hunk 8]
```diff
@@ -13,29 +12,329 @@ open import Cubical.Foundations.Prelude
...
+
+wedgeConSn (suc n) m {A = A} hlev f g hom = F , ((λ _ → refl) , right)
+  where
+  transpLemma : (x : S₊ (suc n)) → transport (λ i₁ → A (merid x i₁) (ptSn (suc m))) (f (ptSn (suc m))) ≡ g south
+  transpLemma x = cong (transport (λ i₁ → A (merid x i₁) (ptSn (suc m))))
+                       (sym hom)
+                ∙ (λ i → transp (λ j → A (merid x (i ∨ j)) (ptSn (suc m))) i
+                                 (g (merid x i)))
+
+  guy : (x : S₊ (suc n)) → PathP (λ i₁ → A (merid x i₁) (ptSn (suc m)))
```
Comment (mortberg) [inline Cubical/HITs/Sn/Properties.agda:171]: What's `guy`?

File: Cubical/HITs/Sn/Properties.agda [hunk 9]
```diff
@@ -13,29 +12,329 @@ open import Cubical.Foundations.Prelude
...
+    hLevelP : (a b : S₊ (2 + n)) → isOfHLevel 4n+2 (P a b)
+    hLevelP _ _ = isOfHLevelΠ 4n+2 λ _ → isOfHLevelTrunc 4n+2
+
+    leftFun : (a : S₊ (2 + n)) → P a north
+    leftFun a r = ∣ a , (rCancel' (merid a) ∙ rCancel' (merid north) ⁻¹) ∙ r ∣
+
+    rightFun : (b : S₊ (2 + n)) → P north b
+    rightFun b r = ∣ b , r ∣
+
+    funsAgree : leftFun north ≡ rightFun north
```
Comment (mortberg) [inline Cubical/HITs/Sn/Properties.agda:255]: Wouldn't this proof be easier to read if you just wrote it directly using dimension variables?

File: Cubical/HITs/Sn/Properties.agda [hunk 10]
```diff
@@ -13,29 +12,329 @@ open import Cubical.Foundations.Prelude
...
+    cong (transport (λ i → gluePath i))
+      (funExt⁻ (funExt⁻ (WC-S.leftId refl) a) _ ∙ λ i → ∣ a , lem (rCancel' (merid a)) (rCancel' (merid north)) i ∣)
+    ∙ transport (PathP≡Path gluePath _ _)
+      (λ i → ∣ a , (λ j k → rCancel-filler' (merid a) i j k) ∣)
+    where
+    gluePath : I → Type _
+    gluePath i = hLevelTrunc 4n+2 (fiber (interpolate a i) (λ j → merid a (i ∧ j)))
+
+    lem : ∀ {ℓ} {A : Type ℓ} {x y z : A} (p : x ≡ y) (q : z ≡ y) → (p ∙ q ⁻¹) ∙ q ≡ p
+    lem p q = assoc p (q ⁻¹) q ⁻¹ ∙ cong (p ∙_) (lCancel q) ∙ rUnit p ⁻¹
```
Comment (mortberg) [inline Cubical/HITs/Sn/Properties.agda:315]: Can't you use `_∙∙_∙∙_`  ?

File: Cubical/ZCohomology/Groups/Sn.agda [hunk 11]
```diff
@@ -391,3 +272,117 @@ Hⁿ-Sⁿ≅ℤ (suc n) =
   Ker-ϕ⊂Im-left theIso = K.Ker-d⊂Im-Δ  (suc n)
   Ker-right⊂Im-ϕ theIso = K.Ker-i⊂Im-d (suc n)
 
+
+
+
+{- More standard proof of H¹(S¹) ≅ ℤ using Mayer-Vietoris.
+This is much slower than the direct proof, but let's keep it here for completeness.
```
Comment (mortberg) [inline Cubical/ZCohomology/Groups/Sn.agda:279]: I wonder if it would make sense to move this to Experiments? Or is there any reason why someone would use this proof instead of the direct one?

I definitely think we should keep this proof somewhere, especially if we plan to try to characterize these cohomology groups from the Eilenberg-Steenrod axioms. Most likely that proof will be similar to this one and I bet that a proof using those axioms instead of the concrete implementation of MV will be much faster.

Comment (mortberg) [reply Cubical/ZCohomology/Groups/Sn.agda:279]: PS: I mean it would be good to have it uncommented in Experiments so that it doesn't break when we change the library

File: Cubical/ZCohomology/Groups/Wedge.agda [hunk 12]
```diff
@@ -45,15 +54,66 @@ module _ {ℓ ℓ'} (A : Pointed ℓ) (B : Pointed ℓ') where
...
+                                (sElim2 (λ _ _ → isOfHLevelPath 2 (isOfHLevel× 2 setTruncIsSet setTruncIsSet) _ _)
+                                         λ _ _ → refl)
+    where
+    helpIso : ∀ {ℓ'''} {C : Type ℓ'''} → Iso (A ⋁ B → C) (Σ[ f ∈ (typ A → C) × (typ B → C) ] (fst f) (pt A) ≡ (snd f) (pt B))
+    Iso.fun helpIso f = ((λ x → f (inl x)) , λ x → f (inr x)) , cong f (push tt)
+    Iso.inv helpIso ((f , g) , p) (inl x) = f x
+    Iso.inv helpIso ((f , g) , p) (inr x) = g x
+    Iso.inv helpIso ((f , g) , p) (push a i) = p i
+    Iso.rightInv helpIso ((f , g) , p) = ΣPathP (ΣPathP (refl , refl) , refl)
+    Iso.leftInv helpIso f = funExt λ {(inl a) → refl ; (inr a) → refl ; (push a i) → refl}
```
Comment (mortberg) [inline Cubical/ZCohomology/Groups/Wedge.agda:67]: A lot of redundant parentheses here

File: Cubical/ZCohomology/Properties.agda [hunk 13]
```diff
@@ -46,18 +48,78 @@ private
...
+
+coHomPointedElim : {A : Type ℓ} (n : ℕ) (a : A) {B : coHom (suc n) A → Type ℓ'}
+                 → ((x : coHom (suc n) A) → isProp (B x))
+                 → ((f : A → coHomK (suc n)) → f a ≡ coHom-pt (suc n) → B ∣ f ∣₂)
+                 → (x : coHom (suc n) A) → B x
+coHomPointedElim {A = A} n a isprop indp =
+  sElim (λ _ → isOfHLevelSuc 1 (isprop _))
+         λ f → helper n isprop indp f (f a) refl
+  where
+  helper : ∀ {ℓ} (n : ℕ) {B : coHom (suc n) A → Type ℓ}
```
Comment (mortberg) [inline Cubical/ZCohomology/Properties.agda:76]: Do you really need to quantify over the level here as well?

File: Cubical/ZCohomology/Properties.agda [hunk 14]
```diff
@@ -46,18 +48,78 @@ private
...
+           (suspToPropElim north (λ _ → isPropΠ λ _ → isprop _) (ind f))
+
+coHomPointedElim2 : {A : Type ℓ} (n : ℕ) (a : A) {B : coHom (suc n) A → coHom (suc n) A → Type ℓ'}
+                 → ((x y : coHom (suc n) A) → isProp (B x y))
+                 → ((f g : A → coHomK (suc n)) → f a ≡ coHom-pt (suc n) → g a ≡ coHom-pt (suc n) → B ∣ f ∣₂ ∣ g ∣₂)
+                 → (x y : coHom (suc n) A) → B x y
+coHomPointedElim2 {A = A} n a isprop indp = sElim2 (λ _ _ → isOfHLevelSuc 1 (isprop _ _))
+                                                   λ f g → helper n a isprop indp f g (f a) (g a) refl refl
+  where
+  helper : ∀ {ℓ} (n : ℕ) (a : A) {B : coHom (suc n) A → coHom (suc n) A → Type ℓ}
```
Comment (mortberg) [inline Cubical/ZCohomology/Properties.agda:103]: Do you really need to quantify over the level here as well?

**Review by mortberg — CHANGES_REQUESTED** [review]
Very nice! I only had minor comments 

Can you paste the top 10 slowest files on master and on this PR using `make timings`? It would also be interesting to see which are the 10 slowest definitions on this PR

File: Cubical/HITs/Sn/Properties.agda (hunk 7 above)
Comment (aljungstrom) [reply Cubical/HITs/Sn/Properties.agda:74]: These are all dependent paths, so I can't use `_∙∙_∙∙_`

File: Cubical/HITs/Sn/Properties.agda (hunk 9 above)
Comment (aljungstrom) [reply Cubical/HITs/Sn/Properties.agda:255]: Sorry, maybe I'm a bit slow, but I don't understand hehe. Do you mean doing the whole of "miniFreudenthal" directly?

File: Cubical/HITs/Sn/Properties.agda (hunk 10 above)
Comment (aljungstrom) [reply Cubical/HITs/Sn/Properties.agda:315]: Oh right. I'll change that in Evan's original proof too then

File: Cubical/ZCohomology/Groups/Sn.agda (hunk 11 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/Groups/Sn.agda:279]: his proof is a bit annoying since we don't have Guillaume's half-reduced version of Mayer-Vietoris (in which case it would be almost immediate) and should probably be improved at some point. But I guess it makes sense to keep it for future reference. I'll put it in experiments.

File: Cubical/ZCohomology/Groups/Wedge.agda (hunk 12 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/Groups/Wedge.agda:67]: I actually seem to need all of them since (_,_) is right-associative. I could change the alter the statement slightly to avoid this, but then I would either have to juggle with truncations more than I do now or make the lemma about truncating sigma types (the one I called moveSetTruncΣ) much less general.

Comment (mortberg) [reply Cubical/ZCohomology/Groups/Wedge.agda:67]: I mean the ones in the pattern-matching:
```
    Iso.leftInv helpIso f = funExt λ {(inl a) → refl ; (inr a) → refl ; (push a i) → refl}
```

It should be possible to write:

```
    Iso.leftInv helpIso f = funExt λ { inl a → refl ; inr a → refl ; push a i → refl}
```

Alternatively
```
    Iso.leftInv helpIso f = funExt λ { _ → refl }
```
might also work?

File: Cubical/HITs/Sn/Properties.agda (hunk 10 above)
Comment (mortberg) [reply Cubical/HITs/Sn/Properties.agda]: Great, please fix both!

File: Cubical/HITs/Sn/Properties.agda (hunk 9 above)
Comment (mortberg) [reply Cubical/HITs/Sn/Properties.agda:257]: No, I just meant in `funsAgree`. I was thinking that it might be easier to read if you inline `funExt` and `cong'`, but I might be wrong

File: Cubical/HITs/Sn/Properties.agda (hunk 7 above)
Comment (mortberg) [reply Cubical/HITs/Sn/Properties.agda:76]: Ahh, right! My bad

File: Cubical/HITs/Sn/Properties.agda (hunk 9 above)
Comment (aljungstrom) [reply Cubical/HITs/Sn/Properties.agda:257]: Oh, to be honest I barely looked at this. This is Evan's stuff. I'm guessing he had a reason for using the obscure `cong`' hehe.

**Comment by aljungstrom** [comment]
Worst of master:

> Cubical.ZCohomology.Groups.Sn                     9,511ms 
> Cubical.ZCohomology.Groups.Wedge                  7,657ms 
> Cubical.ZCohomology.MayerVietorisUnreduced        5,323ms 
> Cubical.ZCohomology.Properties                    4,383ms 
> Cubical.ZCohomology.Groups.WedgeOfSpheres         2,698ms 
> Cubical.HITs.Hopf                                 2,492ms 
> Cubical.Data.Fin.Properties                       2,442ms 
> Cubical.ZCohomology.Groups.Prelims                2,317ms 
> Cubical.Algebra.Algebra.Base                      2,122ms 
> Cubical.Foundations.HLevels                       2,045ms 

Worst of new PR:

> Cubical.ZCohomology.Groups.Wedge                  7,627ms 
> Cubical.ZCohomology.MayerVietorisUnreduced        5,108ms 
> Cubical.ZCohomology.Properties                    4,172ms 
> Cubical.ZCohomology.Groups.WedgeOfSpheres         2,683ms 
> Cubical.ZCohomology.Groups.Prelims                2,372ms 
> Cubical.Foundations.HLevels                       2,302ms 
> Cubical.HITs.Hopf                                 2,175ms 
> Cubical.Algebra.Algebra.Base                      2,168ms 
> Cubical.ZCohomology.Groups.Sn                     2,001ms 
> Cubical.Data.Fin.Properties                       1,970ms

File: Cubical/HITs/Sn/Properties.agda (hunk 9 above)
Comment (aljungstrom) [reply Cubical/HITs/Sn/Properties.agda:257]: Oh but yeah, I agree now. Fixed this. Realised the original proof looked slightly different in general.

File: Cubical/ZCohomology/Groups/Wedge.agda (hunk 12 above)
Comment (aljungstrom) [reply Cubical/ZCohomology/Groups/Wedge.agda:67]: Neither of those things work:-( Do these things work for you? Maybe I don't have the latest version of Agda.

Comment (mortberg) [reply Cubical/ZCohomology/Groups/Wedge.agda:67]: Ok, nevermind this then. I rarely use pattern-matching lambdas except for hcomp so I guess I just don't know what is syntactically allowed

**Comment by mortberg** [comment]
> Worst of master:
> 
> > Cubical.ZCohomology.Groups.Sn                     9,511ms
> > Cubical.ZCohomology.Groups.Wedge                  7,657ms
> > Cubical.ZCohomology.MayerVietorisUnreduced        5,323ms
> > Cubical.ZCohomology.Properties                    4,383ms
> > Cubical.ZCohomology.Groups.WedgeOfSpheres         2,698ms
> > Cubical.HITs.Hopf                                 2,492ms
> > Cubical.Data.Fin.Properties                       2,442ms
> > Cubical.ZCohomology.Groups.Prelims                2,317ms
> > Cubical.Algebra.Algebra.Base                      2,122ms
> > Cubical.Foundations.HLevels                       2,045ms
> 
> Worst of new PR:
> 
> > Cubical.ZCohomology.Groups.Wedge                  7,627ms
> > Cubical.ZCohomology.MayerVietorisUnreduced        5,108ms
> > Cubical.ZCohomology.Properties                    4,172ms
> > Cubical.ZCohomology.Groups.WedgeOfSpheres         2,683ms
> > Cubical.ZCohomology.Groups.Prelims                2,372ms
> > Cubical.Foundations.HLevels                       2,302ms
> > Cubical.HITs.Hopf                                 2,175ms
> > Cubical.Algebra.Algebra.Base                      2,168ms
> > Cubical.ZCohomology.Groups.Sn                     2,001ms
> > Cubical.Data.Fin.Properties                       1,970ms

Very nice!

**Comment by mortberg** [comment]
These are the 4 slowest definitions now: 
```
Cubical.ZCohomology.Groups.Wedge._._.bijIso                                         8,542ms 
Cubical.ZCohomology.MayerVietorisUnreduced.MV.dHomHelperPath                        1,491ms 
Cubical.ZCohomology.Groups.WedgeOfSpheres.H¹-S²⋁S¹⋁S¹                               1,386ms 
Cubical.ZCohomology.Groups.WedgeOfSpheres.H²-S²⋁S¹⋁S¹                               1,061ms 
```

What is up with bijIso? It looks really innocent:

https://github.com/agda/cubical/blob/master/Cubical/ZCohomology/Groups/Wedge.agda#L50

File: Cubical/HITs/Sn/Properties.agda (hunk 9 above)
Comment (ecavallo) [reply Cubical/HITs/Sn/Properties.agda:257]: I was told to! :P https://github.com/agda/cubical/pull/275#discussion_r406647042
